US09428470B2
A mixture of benzyl (5R)-5-(2-(benzyloxy)-2-oxoethyl)-3-(3-((4-nitrobenzoyl)oxy)phenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate (77.5 g), 10% Pd/C (containing about 55% water, 7.8 g), and THF (780 mL) was stirred at room temperature for 3 hours under a hydrogen atmosphere. The catalyst was filtered off, and then, the filtrate was concentrated under reduced pressure to obtain (5R)-3-(3-((4-aminobenzoyl)oxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid as a crude product.

reactant | benzyl (5R)-5-(2-(benzyloxy)-2-oxoethyl)-3-(3-((4-nitrobenzoyl)oxy)phenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 77.5 g | C(C1=CC=CC=C1)OC(C[C@]1(CC(=NO1)C1=CC(=CC=C1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)OCC1=CC=CC=C1)=O | C33H26N2O9
catalyst | Pd/C | 7.8 g | [Pd] | Pd
solvent | THF | 780 mL | C1CCOC1 | C4H8O
product | (5R)-3-(3-((4-aminobenzoyl)oxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid | NC1=CC=C(C(=O)OC=2C=C(C=CC2)C2=NO[C@@](C2)(C(=O)O)CC(=O)O)C=C1 | C19H16N2O7
